US04918080
3-(5-Methyl-1H-imidazol-4-yl)-1-(2-methyl-1-naphthalenyl)-1-propanone maleate
A mixture of (E)-3-[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]-1-(2-methyl-1-naphthalenyl)-2-propen-1-one (1.25 g), acetic acid (10 ml), THF (10 ml) and water (10 ml) was heated on a steam bath for 1 h. The mixture was then hydrogenated according to the General Procedure and the resulting filtrate was evaporated in vacuo and partitioned between dichloromethane (3×75 ml) and 0.2N sodium hydroxide (100 ml). The combined organic layers were dried and evaporated in vacuo to leave a foam (1.3 g) which was purified by FCC eluting with System A (94.5:5:0.5) to give the free base of the title compound as an oil. The product of maleic acid formation was triturated with ether to give the title compound (0.78 g), m.p. 108°-109°.

reactant | (E)-3-[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]-1-(2-methyl-1-naphthalenyl)-2-propen-1-one | 1.25 g | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)/C=C/C(=O)C1=C(C=CC2=CC=CC=C12)C | C37H30N2O
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 3-(5-Methyl-1H-imidazol-4-yl)-1-(2-methyl-1-naphthalenyl)-1-propanone maleate | 1.3 g | C(\C=C/C(=O)O)(=O)O.CC1=C(N=CN1)CCC(=O)C1=C(C=CC2=CC=CC=C12)C | InChI=1S/C18H18N2O.C4H4O4/c1-12-7-8-14-5-3-4-6-15(14)18(12)17(21)10-9-16-13(2)19-11-20-16;5-3(6)1-2-4(7)8/h3-8,11H,9-10H2,1-2H3,(H,19,20);1-2H,(H,5,6)(H,7,8)/b;2-1-
